US09260408B2
3-Chloro-pyridine-2-carboxylic acid methyl-[5-(2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-ylmethyl]-amide
In analogy to the procedure described for the preparation of example 45, 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-2(1H)-one (intermediate A-34) has been coupled to N-((5-bromopyridin-3-yl)methyl)-3-chloro-N-methylpicolinamide (intermediate A-57) to give the title compound as a light brown amorphous solid. MS: 407.5 (M+H+).

reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-2(1H)-one | CC1(OB(OC1(C)C)C=1C=C2CCC(NC2=CC1)=O)C | C15H20BNO3
reactant | N-((5-bromopyridin-3-yl)methyl)-3-chloro-N-methylpicolinamide | BrC=1C=C(C=NC1)CN(C(C1=NC=CC=C1Cl)=O)C | C13H11BrClN3O
product | 3-Chloro-pyridine-2-carboxylic acid methyl-[5-(2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-ylmethyl]-amide | CN(C(=O)C1=NC=CC=C1Cl)CC=1C=NC=C(C1)C=1C=C2CCC(NC2=CC1)=O | C22H19ClN4O2
